US06794395B1
(37) 3-(Z)-[1-(4-ethoxycarbonyl-anilino)-1-ethyl-methylidene]-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone and ethyl 4-aminobenzoate

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(CC)OCC)=O | C17H21NO5
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 3-(Z)-[1-(4-ethoxycarbonyl-anilino)-1-ethyl-methylidene]-5,6-dimethoxy-2-indolinone | C(C)OC(=O)C1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C22H24N2O5
